US06169107A
The reaction was carried out in a manner similar to Example 1 except for using 0.62 g-(1.92 mmol) of ethyl 5-benzamido-1-methyl-2-indole-carboxylate, 3.68 g (38.4 mmol) of guanidine hydrochloride and 50 ml of a methanol solution of 2.08 g (38.4 mmol) of sodium methoxide. 5-Benzamido-1-methyl-2-indoloylguanidine hydrochloride was obtained in an amount of 0.38 g (53.1%).

reactant | ethyl 5-benzamido-1-methyl-2-indole-carboxylate | 1.92 mmol | C(C1=CC=CC=C1)(=O)NC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C19H18N2O3
reactant | guanidine hydrochloride | 38.4 mmol, 3.68 g | Cl.NC(=N)N
reactant | sodium methoxide | 38.4 mmol, 2.08 g | C[O-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-Benzamido-1-methyl-2-indoloylguanidine hydrochloride | Cl.C(C1=CC=CC=C1)(=O)NC=1C=C2C=C(NC2=CC1)C(=O)N=C(NC)N | InChI=1S/C18H17N5O2.ClH/c1-20-18(19)23-17(25)15-10-12-9-13(7-8-14(12)22-15)21-16(24)11-5-3-2-4-6-11;/h2-10,22H,1H3,(H,21,24)(H3,19,20,23,25);1H
